US04192871
2β-Ethoxy-3α-hydroxy-11β-iodoacetoxy-5α-pregnan-20-on
11β-Chloroacetoxy-2β-ethoxy-3α-hydroxy-5α-pregnan-20-one (420 mg) in acetone (42 ml) was treated with sodium iodide (550 mg) and the solution was refluxed for one hour, during which time a fine white precipitate formed. The filtered solution was evaporated to an oily solid which was partitioned between ether/ethyl acetate and water. The organic layer was washed with water, dried over sodium sulphate and evaporated to give title compound (510 mg) as a white form, [α]D +80° (c 0.32%).

reactant | 11β-Chloroacetoxy-2β-ethoxy-3α-hydroxy-5α-pregnan-20-one | 420 mg | ClCC(=O)O[C@@H]1[C@@H]2[C@]3(C[C@@H]([C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)O)OCC)C | C25H39ClO5
reactant | sodium iodide | 550 mg | [I-].[Na+]
solvent | acetone | 42 ml | CC(=O)C | C3H6O
product | 2β-Ethoxy-3α-hydroxy-11β-iodoacetoxy-5α-pregnan-20-on | 510 mg | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@@H]([C@@H]3[C@]2(C1)C)OC(CI)=O)C)O | C25H39IO5
